US07795267B2
Tetrahydro-3-oxo-1,1-diphenyl-N-[(4-pyridinyl)methyl]-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
4-(Aminomethyl)pyridine (0.50 g, 4.6 mmol) was dissolved in tetrahydrofuran (5 mL). With ice cooling, diisopropylethylamine (1.5 mL) and 4-nitrophenyl chloroformate (1.0 g, 5.0 mmol) were added thereto, and the mixture was stirred at 0° C. for 30 minutes. Next, hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.15 g, 0.51 mmol) was added thereto, and the resulting mixture was stirred for 16 hours while elevating the temperature from 0° C. to room temperature. The reaction solution was concentrated under reduced pressure, an aqueous saturated sodium hydrogen carbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated sodium hydrogen carbonate solution and water, and concentrated under reduced pressure. The residue was purified with amino silica gel column chromatography (ethyl acetate) and powder was formed from hexane to obtain the title compound (0.12 g, yield 56%).

reactant | 4-(Aminomethyl)pyridine | 4.6 mmol, 0.50 g | NCC1=CC=NC=C1 | C6H8N2
reactant | diisopropylethylamine | 1.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 5.0 mmol, 1.0 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.51 mmol, 0.15 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Tetrahydro-3-oxo-1,1-diphenyl-N-[(4-pyridinyl)methyl]-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.12 g, yield 56% | O=C1OC(C2N1CCN(C2)C(=O)NCC2=CC=NC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H24N4O3
